US09085534B2
3-[(2-aminobenzyl)amino]pyridine-4-carboxylic acid
The title compound was prepared in 9% yield from 2-aminobenzylamine and 3-fluoroisonicotinic acid according to the procedure for the preparation of Example 3. 1H NMR (400 MHz, DMSO-d6): δ 8.16 (s, 1H), 7.82 (d, 1H, J=5.0 Hz), 7.56 (d, 1H, J=5.0 Hz), 7.05 (d, 1H, J=7.5 Hz), 6.97 (td, 1H, J=7.8, 1.4 Hz), 6.66 (d, 1H, J=7.9 Hz), 6.52 (td, 1H, J=7.4, 1.0 Hz), 4.35 (s, 2H). [M+H] calc'd for C13H13N3O2, 244; found 244.

reactant | 2-aminobenzylamine | NC1=C(CN)C=CC=C1 | C7H10N2
reactant | 3-fluoroisonicotinic acid | FC1=C(C(=O)O)C=CN=C1 | C6H4FNO2
product | 3-[(2-aminobenzyl)amino]pyridine-4-carboxylic acid | 9% yield | NC1=C(CNC=2C=NC=CC2C(=O)O)C=CC=C1 | C13H13N3O2
